US04237138
N-Acetyl-4-(2-phenylallyloxy)piperidine (4.0 g.) in dry tetrahydrofuran (60 ml.) was added dropwise to a stirred solution of mercuric acetate (6.35 g.) in water (60 ml.) and the solution stirred at room temperature for one hour. Sodium hydroxide solution (40 ml., 3 N) and sodium borohydride (0.75 g.) in sodium hydroxide solution (40 ml., 3 N) were then added dropwise to the stirred solution at 0° C. The grey suspension was stirred at 0° C. for one hour, glacial acetic acid was added to pH 6, then the suspension filtered and the filtrate extracted with chloroform (3×150 ml.). The combined chloroform extracts were dried (Na2SO4) and evaporated in vacuo to give N-acetyl-4-(2-hydroxy-2-phenyl-n-propoxy)piperidine (2.1 g.). This product in methanol (30 ml.) and sodium hydroxide solution (20 ml., 5 N) was heated under reflux for 4 hours. The organic solvent was evaporated and the aqueous solution extracted with chloroform (3×20 ml.), dried (Na2SO4) and the solvent evaporated in vacuo to give 4-(2-hydroxy-2-phenyl-n-propoxy)piperidine (1.8 g.) as an oil. A sample was characterized as the oxalate salt which recrystallized from ethyl acetate and had an m.p. of 132°-134° C.

reactant | N-Acetyl-4-(2-phenylallyloxy)piperidine | 4.0 g | C(C)(=O)N1CCC(CC1)OCC(=C)C1=CC=CC=C1 | C16H21NO2
reactant | sodium borohydride | 0.75 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 60 ml | O | H2O
solvent | sodium hydroxide | 3 N, 40 ml | [OH-].[Na+]
solvent | Sodium hydroxide | 3 N, 40 ml | [OH-].[Na+]
product | N-acetyl-4-(2-hydroxy-2-phenyl-n-propoxy)piperidine | 2.1 g | C(C)(=O)N1CCC(CC1)OCC(C)(C1=CC=CC=C1)O | C16H23NO3
